US07846944B2
At RT, 2-(ethoxymethylene)malononitrile (5.77 g, 47.2 mmol) was added in portions to a stirred suspension of 1-(2-chlorophenyl)hydrazine hydrochloride (8.05 g, 45.0 mmol) and TEA (6.58 ml, 47.2 mmol) in absolute EtOH (56 mL). The mixture was heated to reflux for 1 h. The volatile solvents were removed under reduced pressure. The brown reside was dissolved in EtOAc, washed with water followed by saturated NaHCO3 solution. The organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure to obtain 5-amino-1-(2-chlorophenyl)-1H-pyrazole-4-carbonitrile as a rusty crystalline solid. MS (ESI, pos.ion) m/z: 219.0 (M+1).

reactant | 2-(ethoxymethylene)malononitrile | 47.2 mmol, 5.77 g | C(C)OC=C(C#N)C#N | C6H6N2O
reactant | 1-(2-chlorophenyl)hydrazine hydrochloride | 45.0 mmol, 8.05 g | Cl.ClC1=C(C=CC=C1)NN
solvent | EtOH | 56 mL | CCO | C2H6O
product | 5-amino-1-(2-chlorophenyl)-1H-pyrazole-4-carbonitrile | NC1=C(C=NN1C1=C(C=CC=C1)Cl)C#N | C10H7ClN4
